US08106190B2
An ethanol solution of 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-7-nitro-3,4-dihydroquinoline-2(1H)-one and 10% palladium-carbon was stirred at room temperature for 3 hours under an atmosphere of hydrogen (1 atm), the reaction liquid was filtered, and then the filtrate was concentrated under a reduced pressure. By purifying the residue by silica gel column chromatography, 7-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydroquinolin-2(1H)-one was obtained.

reactant | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-7-nitro-3,4-dihydroquinoline-2(1H)-one | [Si](C)(C)(C(C)(C)C)OCCN1C(CCC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H26N2O4Si
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | 7-amino-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydroquinolin-2(1H)-one | NC1=CC=C2CCC(N(C2=C1)CCO[Si](C)(C)C(C)(C)C)=O | C17H28N2O2Si
